US07612114B2
[4-(2-Azepan-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine
To a suspension of 4-(2-azepan-1-ylethoxy)benzoic acid hydrochloride (300 mg) in 1,2-dichloroethane (15 ml) was added thionyl chloride (0.3 ml), the solution was refluxed for 40 minutes, then the reaction solution was concentrated in vacuo. To a suspension of the resulting 4-(2-azepan-1-ylethoxy)benzoyl chloride hydrochloride in 1,4-dioxane (4 ml) were added 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (150 mg) and N,N-diisopropylethylamine (1 ml), and the solution was stirred for 1.5 hours at 90° C. Water was added thereto followed by stirring, and the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate-methanol system) to provide 4-(2-azepan-1-ylethoxy)-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide (156 mg). To a suspension of lithium aluminum hydride (33 mg) in tetrahydrofuran (1.5 ml) was added aluminum chloride (116 mg) on an ice bath under a nitrogen atmosphere, the solution was stirred for 10 minutes at room temperature, 4-(2-azepan-1-ylethoxy)-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide (153 mg) was then added thereto, followed by stirring for 2 hours at room temperature. Tetrahydrofuran and aqueous ammonia were sequentially added thereto, the solution was filtered through celite pad, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate-methanol system) to provide the title compound (116 mg).

reactant | lithium aluminum hydride | 33 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 116 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-(2-azepan-1-ylethoxy)-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]benzamide | 153 mg | N1(CCCCCC1)CCOC1=CC=C(C(=O)NC2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)C=C1 | C33H40N2O4
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | [4-(2-Azepan-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 116 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)C=C1 | C33H42N2O3
